US09255089B2
3,5-Dicyclopropylisoxazole (70.0 mg, 0.469 mmol) was treated with NBS (167.0 mg, 0.938 mmol, equiv) in CH2Cl2 at room temperature for 12 h. The solvent was removed under a reduced pressure and the residue was directly loaded onto a silica gel column chromatography (hexane EtOAc 87:13) to give 4-bromo-3,5-dicyclopropylisoxazole.

reactant | 3,5-Dicyclopropylisoxazole | 0.469 mmol, 70.0 mg | C1(CC1)C1=NOC(=C1)C1CC1 | C9H11NO
reactant | NBS | 0.938 mmol, 167.0 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-bromo-3,5-dicyclopropylisoxazole | BrC=1C(=NOC1C1CC1)C1CC1 | C9H10BrNO
